US06127374
A solution of 6-amino-4-(4-phenoxyanilino)quinazoline hydrochloride (1.65 g, 4.2 mmol) in methanol/THF (1:1, 100 mL) was hydrogenated over Raney nickel (1 g) at 50 psi and 27° C. for 18 hours. The reaction mixture was celite filtered, and the volatiles were removed under reduced pressure. The glassy residue was partially redissolved in MeOH (25 mL), and dilute aqueous Na2CO3 solution (0.1M, 50 mL) was added with vigourous stirring. After 2 hours, the precipitate was collected by Buchner filtration, rinsed with water (50 mL), air dried, and then purified by flash chromatography on silica gel, eluting with 2.5% then 4% MeOH in CH2Cl2 to give 6-amino- 4-(4-phenoxyanilino)quinazoline (1.113 g, 80%) as a pale yellow glassy foam; mp 89-90° C., remelt 195-200° C. Calculated for C20H16N4O.0.25 H2O: C, 72.16; H, 5.00; N, 16.84%. Found: C, 72.08; H, 4.84: N, 16.81%. 1H NMR (DMSO-d6); δ9.38 (1 H, brs), 8.30 (1 H, s), 7.87 (2 H, d, J=9.0 Hz), 7.40 (1 H, d, J=8.8 Hz), 7.38 (2 H, dd, J=7.3, 8.6 Hz), 7.34 (1 H, d, J=2.4 Hz), 7.23 (1 H, dd, J=2.4, 8.9 Hz), 7.11 (1 H, t, J=7.4 Hz), 7.05 (2 H, d, J=8.8 Hz), 7.00 (2 H, d, J=7.8 Hz), 5.58 (2 H, brs). Mass spectrum (APCI) 329 (100 MH+).

reactant | 6-amino-4-(4-phenoxyanilino)quinazoline hydrochloride | 4.2 mmol, 1.65 g | Cl.NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OC1=CC=CC=C1
solvent | methanol THF | 100 mL | CO.C1CCOC1
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 6-amino- 4-(4-phenoxyanilino)quinazoline | 1.113 g, 80% | NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C20H16N4O
